US07767691B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-{4-[(phenylmethyl)oxy]butyl}-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 1, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol (33.1 mg, 0.118 mmol) and 4-bromobutyl phenylmethyl ether (0.04 mL, 0.21 mmol) in 2 CH3CN/3 CHCl3 (2.5 mL) were reacted to give the desired product (4.5 mg, 7%). EI-MS m/z 442 (M+) Rt (2.01 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)methanol | 0.118 mmol, 33.1 mg | N12CCC(CC1)(C2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C19H21NO
reactant | 4-bromobutyl phenylmethyl ether | 0.21 mmol, 0.04 mL | C1(=CC=CC=C1)COCCCCBr | C11H15BrO
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-{4-[(phenylmethyl)oxy]butyl}-1-azoniabicyclo[2.2.1]heptane bromide | 4.5 mg, 7% | [Br-].OC(C12CC[N+](CC1)(C2)CCCCOCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H36NO2.BrH/c32-30(27-14-6-2-7-15-27,28-16-8-3-9-17-28)29-18-21-31(25-29,22-19-29)20-10-11-23-33-24-26-12-4-1-5-13-26;/h1-9,12-17,32H,10-11,18-25H2;1H/q+1;/p-1
